US07429591B2
A. 1-[3-(4-Chloro-Phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone.
To a stirred solution of 50 g (0.35 mol) of N-acetyl-4-piperidone and 31 g (0.35 mol) of morpholine in benzene (350 mL) was added a catalytic amount (˜0.25 g) of p-toluenesulfonic acid. The mixture was heated to reflux for 10 h with a Dean-Stark trap. The solvent was removed under reduced pressure to give a brown oil. The crude product was diluted with CH2Cl2 (175 mL) and 50.0 mL (0.35 mol) of Et3N was added. The mixture was cooled to 0° C. and a solution of 45.0 mL (0.35 mol) of 4-chlorobenzoyl chloride in CH2Cl2 (50 mL) was added slowly by dropping funnel over 1 h. The mixture was allowed to warm to room temperature and stirred overnight. The reaction was then diluted with 1 N HCl (150 mL) and stirred vigorously for 3 h. The aqueous layer was extracted with CH2Cl2 (3×250 mL) and the combined extracts were dried over Na2SO4 and the solvent was removed under reduced pressure. The crude oil was diluted with EtOH (350 mL) and cooled to 0° C. To this stirred solution was slowly added 33.0 mL (1.06 mol) of hydrazine and the mixture was allowed to warm to room temperature and stir overnight during which time a white precipitate formed. The volume of the reaction was reduced to ˜150 mL and EtOAc (750 mL) was added to the mixture. The suspension was stirred vigorously for 2 h and was filtered then washed with EtOAc (2×200 mL) and dried under vacuum to afford 41.4 g (42% over 3 steps) of a pale yellow solid. TLC (silica, 5% MeOH/CH2Cl2): Rf=0.3. MS (electrospray), m/z calculated for C14H14ClN3O [M+H]+276.08, observed 276.0. 1H NMR (400 MHz, CDCl3, a mixture of amide rotarmers): 7.65 (d, J=8.4 Hz, 2H), 7.64 (d, J=9.3 Hz, 2H), 7.58 (d, J=10.5 Hz, 2H), 7.55 (d, J=8.5 Hz, 2H), 4.94 (s, 2H), 4.78 (s, 2H), 4.08 (t, J=5.9 Hz, 2H), 3.90 (t, J=5.8 Hz, 2H), 3.02 (t, J=5.8 Hz, 2H), 2.96 (t, J=5.9 Hz, 2H), 2.36 (s, 3H), 2.31 (s, 3H). B. 1-[3-(4-Chloro-phenyl)-1-(3-chloro-propyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone. Cs2CO3 (2.66 g, 8.2 mmol) was added to a solution of 1-[3-(4-chloro-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone (1.0 g, 5.4 mmol) in DMF (10 mL) and stirred for 15 min. 1-Bromo-3-chloropropane (1.28 g, 8.2 mmol) was added and stirred under N2 at room temperature for 36 h. Water (50 mL) was added to the reaction and stirred for 5 min. The product precipitated out. The aqueous portion was decanted and water was added to the residue and decanted again. The semisolid was taken up in CH2Cl2 and passed through a short plug of SiO2 (5% MeOH/EtOAc) to obtain 1.06 g (83%) of a pale yellow semisolid. MS (electrospray): exact mass calculated for C17H19Cl2N3O, 351.09; m/z found, 352.0 [M+H]+. 1H NMR (500 MHz, CDCl3, a mixture of 1:1 rotamers): 7.60 (d, J=8.3 Hz, 1H), 7.53 (d, J=8.3 Hz, 1H), 7.40 (d, J=8.3 Hz, 1H), 7.36 (d, J=8.3 Hz, 1H), 4.77 (s, 1H), 4.61 (s, 1H), 4.20 (t, J =6.2 Hz, 2H), 3.94 (t, J=5.8 Hz, 1H), 3.76 (t, J=5.8 Hz, 1H), 3.52 (q, J=6.1 Hz, 2H), 2.84 (t, J=5.5 Hz, 1H), 2.77 (t, J=5.6 Hz, 1H), 2.37 (sextet, J=6.1 Hz, 2H), 2.21 (s, 1.5H), 2.16 (s, 1.5H). C. 1-(3-(4-Chloro-phenyl)-1-{3-[4-(2-fluoro-phenyl)-Piperazin-1-yl]-propyl}-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl)-ethanone. 1-[3-(4-Chloro-phenyl)-1-(3-chloro-propyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone (0.053 g, 0.15 mmol) was dissolved in CH3CN (0.5 mL) and a solution of 1-(2-fluorophenyl)piperazine (0.053 g, 0.30 mmol) in CH3CN (0.5 mL) was added, followed by K2CO3 (0.031 g, 0.22 mmol) and Bu4NI (0.018 g, 0.05 mmol). The mixture was stirred at room temperature for 7 d. Preparative TLC (silica, 5% MeOH/EtOAc) afforded 30 mg (41%) of the title compound. MS (electrospray): exact mass calculated for C27H31ClFN5O, 495.22; m/z found, 496.3 [M+H]+. 1H NMR (500 MHz, CDCl3, a mixture of 1:1 rotamers): 7.60 (d, J=8.3 Hz, 1H), 7.54 (d, J=8.3 Hz, 1H), 7.39 (d, J=8.3 Hz, 1H), 7.35 (d, J=8.3 Hz, 1H), 7.06-6.90 (m, 4H), 4.77 (s, 1H), 4.60 (s, 1H), 4.10 (t, J=6.8 Hz, 2H), 3.92 (t, J=5.7 Hz, 1H), 3.74 (t, J=5.7 Hz, 1H), 3.08 (br s, 4H), 2.83 (t, J=5.6 Hz, 1H), 2.77 (t, J=5.7 Hz, 1H), 2.58 (br s, 4H), 2.41-2.38 (m, 2H), 2.19 (s, 1.5H), 2.13 (s, 1.5H), 2.10-2.07 (m, 2H).

reactant | 1-(3-(4-Chloro-phenyl)-1-{3-[4-(2-fluoro-phenyl)-Piperazin-1-yl]-propyl}-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl)-ethanone | ClC1=CC=C(C=C1)C1=NN(C2=C1CN(CC2)C(C)=O)CCCN2CCN(CC2)C2=C(C=CC=C2)F | C27H31ClFN5O
reactant | 1-[3-(4-Chloro-phenyl)-1-(3-chloro-propyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 0.15 mmol, 0.053 g | ClC1=CC=C(C=C1)C1=NN(C2=C1CN(CC2)C(C)=O)CCCCl | C17H19Cl2N3O
reactant | 1-(2-fluorophenyl)piperazine | 0.30 mmol, 0.053 g | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | K2CO3 | 0.22 mmol, 0.031 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 0.5 mL | CC#N | C2H3N
solvent | CH3CN | 0.5 mL | CC#N | C2H3N
catalyst | Bu4NI | 0.05 mmol, 0.018 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
solvent | MeOH EtOAc | CO.CCOC(=O)C
product | 1-[3-(4-Chloro-Phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 30 mg, 41% | ClC1=CC=C(C=C1)C1=NNC2=C1CN(CC2)C(C)=O | C14H14ClN3O
